US08426420B2
4-((S)-2-{[5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-(3,4-difluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-4-ethoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 1.50 g 4-((S)-4-Carboxy-2-{[5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-(3,4-difluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester in 25 ml dichloromethane were added 481 mg EDC, 306 mg DMAP and 617 μl ethanol. After 3 h the reaction mixture was concentrated and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product. Yield: 520 mg MS (ES+): m/e=746.

reactant | 4-((S)-4-Carboxy-2-{[5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-(3,4-difluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester | 1.50 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC(=C(C=C1)F)F)=O | C33H41F2N7O9
reactant | EDC | 481 mg
reactant | ethanol | 617 μl | C(C)O | C2H6O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | DMAP | 306 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-((S)-2-{[5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-(3,4-difluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-4-ethoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OCC)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC(=C(C=C1)F)F)=O | C35H45F2N7O9
